US07897767B2
Triethylamine (50.0 mL, 360 mmol) was added to a suspension of 4-chloro-3-nitroquinoline (50.0 g, 240 mmol) in DMF (200 mL), followed by dropwise addition of a solution of 1-amino-2-methyl-propan-2-ol (23.5 g, 264 mmol) in DMF (50 mL). The reaction mixture was stirred overnight at room temperature, then water (500 mL) was added and stirring was continued for 30 minutes. A solid was isolated by filtration, washed with water, and dried to yield 60.9 g of 2-methyl-1-[(3-nitroquinolin-4-yl)amino]propan-2-ol, which was used without further purification.

reactant | Triethylamine | 360 mmol, 50.0 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-3-nitroquinoline | 240 mmol, 50.0 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | 1-amino-2-methyl-propan-2-ol | 264 mmol, 23.5 g | NCC(C)(O)C | C4H11NO
reactant | water | 500 mL | O | H2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-methyl-1-[(3-nitroquinolin-4-yl)amino]propan-2-ol | 60.9 g | CC(CNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-])(C)O | C13H15N3O3
